US06051712
A solution of 18 mg (0.106 mmol) of diethylamino-sulphur trifluoride (DAST) in 1 ml of methylene chloride was cooled to -65° C. and a solution of 56 mg (0.101 mmol) of tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-hydroxymethyl-phenyl)-piperidine-1-carboxylate in 1 ml of methylene chloride was added dropwise thereto at -60° C. to -65° C. within 3 minutes. The resulting yellow solution was warmed to room temperature and stirred for one hour. Subsequently, the mixture was partitioned between methylene chloride and 5% sodium hydrogen carbonate solution, the organic phase was dried over magnesium sulphate and finally the solvent was distilled off under reduced pressure. There were obtained 57 mg of crude tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-fluoromethyl-phenyl)-piperidine-1-carboxylate, which was used in the next step without further purification and characterization.

reactant | diethylamino-sulphur trifluoride | 0.106 mmol, 18 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-hydroxymethyl-phenyl)-piperidine-1-carboxylate | 0.101 mmol, 56 mg | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC(=CC=C1)CO)C(=O)OC(C)(C)C | C35H39NO5
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | tert-butyl (3RS,4RS)-3-(4-benzyloxy-naphthalen-2-ylmethoxy)-4-(3-fluoromethyl-phenyl)-piperidine-1-carboxylate | 57 mg | C(C1=CC=CC=C1)OC1=CC(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC(=CC=C1)CF)C(=O)OC(C)(C)C | C35H38FNO4
